Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.6031664125
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6][H:7],6.95752948212
[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.27970467635
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-2.21015008213
[C:3]([H:4])#[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-3.3603179402200003
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])=[C:10]([H:11])[H:12].[H:7],2.6763934218400003
[H:1][C:2]([H:3])([H:4])[C:5][O:14][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]1=[C:6]([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[O:14]1,-2.8112086535400005
[H:1][C:2]=[C:3]([H:4])[C:9]([C:7](=[C:6]=[O:5])[H:8])([H:10])[H:11]>>[H:1][C:2][C@@:3]1([H:4])[O:5][C:6]=[C:7]([H:8])[C:9]1([H:10])[H:11],3.30037215409
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:7]\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.66867940497
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11],-1.68793045505
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10],-3.88957117734
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.77879751357
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8]>>[H:1][O:2][C:3]#[C:4][C:5][O:7][H:8].[H:6],3.82371436971
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.24092596701
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[C:7]#[C:8][O:9][H:10].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],3.55403115755
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-7.13596457209
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][C:8][H:9])[C:10]([H:11])([H:12])[H:13],0.93536858633
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-4.58293367879
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[H:1][C:2]#[C:3][O:5][C:6]#[C:7][H:8].[H:4],2.41993095466
[C:5]([H:6])([C:7])([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:8][H:9]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-6.58515735721
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.73996946648
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],2.85426051148
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-6.96394530872
[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-2.71645693017
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.23322609986
[C:4]([H:5])=[O:10].[O:1]([C:2]([H:3])=[C:6]=[C:7]([H:8])[H:9])[H:11]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11],-0.932324436391
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10]>>[H:5].[O:1]=[C:2]([H:3])[C:4]#[C:6][C:7]([H:8])[O:9][H:10],3.86766756903
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],4.92267857608
[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-1.8357634172
